US09212147B2
A mixture of 10% palladium-carbon (280 mg), ethanol (25 mL) and 3,4-bis(benzyloxy)-6-[(E)-2-(3,5-difluorophenyl)vinyl]pyridazine (710 mg) was stirred under a hydrogen atmosphere at room temperature for 1 hr. The catalyst was filtered off through celite, and the filtrate was concentrated under reduced pressure. To the obtained residue was added diethyl ether and the obtained solid was dried under reduced pressure to give 6-[2-(3,5-difluorophenyl)ethyl]-4-hydroxypyridazin-3(2H)-one (140 mg).

reactant | 3,4-bis(benzyloxy)-6-[(E)-2-(3,5-difluorophenyl)vinyl]pyridazine | 710 mg | C(C1=CC=CC=C1)OC=1N=NC(=CC1OCC1=CC=CC=C1)\C=C\C1=CC(=CC(=C1)F)F | C26H20F2N2O2
catalyst | palladium-carbon | 280 mg | [C].[Pd]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 6-[2-(3,5-difluorophenyl)ethyl]-4-hydroxypyridazin-3(2H)-one | 140 mg | FC=1C=C(C=C(C1)F)CCC=1C=C(C(NN1)=O)O | C12H10F2N2O2
